US05599815
(a) 3-benzoyl-1-(4-bromobutyl)perhydrobenzimidazol-2-one
To a solution of 3-benzoylperhydrobenzimidazol-2-one (2.7 9, 10.0 mmoles) in 50 ml of dimethylformamide was added 60% sodium hydride (400 mg, 10.0 mmoles), and the mixture was stirred at 60° C. for 30 minutes. To this mixture having been cooled to room temperature was further added 1,4-dibromobutane (10.8 g, 50.0 mmoles), and the resulting mixture was stirred at 60° C. for 4 hours. After chloroform was added to the reaction, insolubles were removed by filtration, the filtrate was washed with water, and the solvent was evaporated. The residue thus obtained was purified by chromatography on a silica gel column to give 1.5 g of the title compound as an oil.

reactant | 3-benzoylperhydrobenzimidazol-2-one | 10.0 mmoles | C(C1=CC=CC=C1)(=O)N1C(NC2C1CCCC2)=O | C14H16N2O2
reactant | sodium hydride | 10.0 mmoles, 400 mg | [H-].[Na+]
reactant | 1,4-dibromobutane | 50.0 mmoles, 10.8 g | BrCCCCBr | C4H8Br2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-benzoyl-1-(4-bromobutyl)perhydrobenzimidazol-2-one | 1.5 g | C(C1=CC=CC=C1)(=O)N1C(N(C2C1CCCC2)CCCCBr)=O | C18H23BrN2O2
